US03979514
Reaction of 4'-(2-bromopropionyl)methanesulfonanilide with 2 molar equivalents of dibenzylamine in acetonitrile provides 4'-(N,N-DIBENZYLALANYL)METHANESULFONANILIDE purified as the hydrochloride, m.p. 216.0°-218.0°C. (dec.).

reactant | 4'-(2-bromopropionyl)methanesulfonanilide | BrC(C(=O)C1=CC=C(NS(=O)(=O)C)C=C1)C | C10H12BrNO3S
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 4'-(N,N-DIBENZYLALANYL)METHANESULFONANILIDE | C(C1=CC=CC=C1)N([C@@H](C)C(=O)C1=CC=C(NS(=O)(=O)C)C=C1)CC1=CC=CC=C1 | C24H26N2O3S
